US08017602B2
Step ii) 2-(3-Bromo-2-fluorophenyl)ethanol
Methanesulfonic acid (0.4 mL) was added to a mixture of 1-bromo-2-fluoro-3-(2-methoxyvinyl)benzene [Example 16, Step i)] (1.8 g), tetrahydrofuran (15 mL) and water (1.5 mL) and sealed into a microwave tube. The reaction was heated to 80° C., over a period of 90 min in the microwave reactor. Sodium bicarbonate (654 mg) was added portionwise and the mixture was stirred for 10 min. Sodium borohydride (295 mg) was added portionwise (gas evolution) and the mixture was stirred for 30 min. The reaction mixture was poured into saturated sodium hydrogen carbonate solution and extracted with DCM (3×30 mL). The organic was dried over magnesium sulfate, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 30% ethyl acetate in isohexane to afford the subtitled compound (1.26 g) as a liquid. 1H NMR (300 MHz, CDCl3) δ 7.47-7.40 (m, 1H), 7.23-7.16 (m, 1H), 6.97 (t, J=7.8 Hz, 1H), 3.88 (q, J=6.2 Hz, 2H), 2.95 (t, J=6.5 Hz, 2H), 1.43 (t, J=5.7 Hz, 1H).

reactant | Methanesulfonic acid | 0.4 mL | CS(=O)(=O)O | CH4O3S
reactant | 1-bromo-2-fluoro-3-(2-methoxyvinyl)benzene | BrC1=C(C(=CC=C1)C=COC)F | C9H8BrFO
reactant | Sodium bicarbonate | 654 mg | C([O-])(O)=O.[Na+]
reactant | Sodium borohydride | 295 mg | [BH4-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 1.5 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(3-Bromo-2-fluorophenyl)ethanol | 1.26 g | BrC=1C(=C(C=CC1)CCO)F | C8H8BrFO
